US08232312B2
tert.butyl {(3,5-dichloro-phenylsulphonyl)-[1-(2-dimethylamino-ethylcarbamoyl)-2,3-dihydro-1H-indol-5-yl]-amino}-acetate
800 μl of a 20% solution of phosgene in toluene are dissolved in 10 ml dichloromethane and cooled to 0° C. To this are added 35 μl diisopropylethylamine and 100 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate. The mixture is stirred for a further 1 hour and then the solvents are eliminated in a nitrogen current. The residue is taken up in 10 ml of tetrahydrofuran, 200 μl N,N-dimethylethylenediamine are added and the mixture is stirred for 3 hours at ambient temperature. Then it is diluted with ethyl acetate and washed with semi-saturated sodium chloride solution. The organic phase is dried on magnesium sulphate, the solvents are eliminated in vacuo and the residue is purified by chromatography on aluminum oxide (cyclohexane/ethyl acetate 3:7 to ethyl acetate).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | diisopropylethylamine | 35 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate | 100 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CC(=O)OC(C)(C)C | C20H22Cl2N2O4S
reactant | N,N-dimethylethylenediamine | 200 μl | CN(CCN)C | C4H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert.butyl {(3,5-dichloro-phenylsulphonyl)-[1-(2-dimethylamino-ethylcarbamoyl)-2,3-dihydro-1H-indol-5-yl]-amino}-acetate | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NCCN(C)C)=O)CC(=O)OC(C)(C)C | C25H32Cl2N4O5S
